US04021479
4-(4'-Chloro-2'-cyano-4-biphenylyl)-4-hydroxy-butyric acid by method D
9.90 gm (0.0316 mol) of 4-(4'-chloro-2'-cyano-4-biphenylyl)-4-hydroxy-crotonic acid in 500 ml of dry ethyl acetate were hydrogenated in the presence of 2.50 gm of Raney nickel, at a hydrogen pressure of 5 atmospheres and at room temperature until the end of hydrogen absorption. After filtering, the filtrate was washed twice with 100 ml of 1% hydrochloric acid each and then with water, dried over sodium sulfate and evaporated in vacuo. The oily, yellowish residue was dissolved in ethyl acetate and converted into the cyclohexylamine salt by addition of the equimolar quantity of cyclohexylamine. Yield: 6.15 gm; m.p. 168°-169° C. (from acetone/ethyl acetate 1:1).

reactant | 4-(4'-chloro-2'-cyano-4-biphenylyl)-4-hydroxy-crotonic acid | 0.0316 mol, 9.90 gm | ClC1=CC(=C(C=C1)C1=CC=C(C=C1)C(/C=C/C(=O)O)O)C#N | C17H12ClNO3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
catalyst | Raney nickel | 2.50 gm | [Ni] | Ni
product | 4-(4'-Chloro-2'-cyano-4-biphenylyl)-4-hydroxy-butyric acid | ClC1=CC(=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)O)C#N | C17H14ClNO3
